Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
diarrhea, BRBPR
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ man with a PMH notable for 
cholecystectomy in ___, who presents with abdominal pain, 
nausea, vomiting, and diarrhea.
The patient started having symptoms about 1 week ago with 
diarrhea. The diarrhea got progressively worse and he started 
having abdominal pain about 2 days prior to presentation. He 
went to the ___ ED on ___ and was discharged after being 
diagnosed with gastroenteritis. He returned to the ED the 
morning of ___ with persistent symptoms and was discharged 
again. He returned an hour later after having frank blood mixed 
in with his diarrhea. In the ED, he had stool studies sent. 
Given his new onset bloody diarrhea and worsening symptoms, he 
was admitted for further care.
On the floor, he reports that the morphine that he received in 
the ED helped with the pain significantly. He reports no recent 
travel outside of ___ other than earlier this ___ when he 
traveled to ___ with his fiancée. While there, he suffered a 
heat stroke and some associated diarrhea, which improved with 
the ciprofloxacin he was prescribed for traveler's diarrhea. He 
reports having not eaten any undercooked food recently. He has 2 
dogs and does feed them raw meat. He has had no sick contacts.
 
Past Medical History:
Cholecystectomy ___
 
Social History:
___
Family History:
No family history of GI illnesses or autoimmune diseases. 
Father's side has extensive history of CAD. Maternal grandmother 
had diabetes.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
General: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, LUQ tenderness, mildly distended, bowel sounds 
present, no organomegaly, no rebound or guarding
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: Grossly nonfocal

DISCHARGE PHYSICAL EXAM
========================
General: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, nontender, not distended, bowel sounds present, 
no organomegaly, no rebound or guarding
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: motor and sensory grossly intact
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:45PM BLOOD WBC-26.3*# RBC-6.12*# Hgb-18.6*# 
Hct-52.5*# MCV-86 MCH-30.4 MCHC-35.4 RDW-13.0 RDWSD-39.6 Plt 
___
___ 01:45PM BLOOD Neuts-88.8* Lymphs-6.0* Monos-3.8* 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-23.35* AbsLymp-1.58 
AbsMono-0.99* AbsEos-0.14 AbsBaso-0.06
___ 01:45PM BLOOD Glucose-115* UreaN-18 Creat-1.1 Na-135 
K-4.3 Cl-99 HCO3-18* AnGap-22*
___ 01:45PM BLOOD ALT-41* AST-38 AlkPhos-168* TotBili-0.6
___ 01:45PM BLOOD Lipase-15
___ 01:45PM BLOOD Albumin-4.7
___ 02:19PM BLOOD Lactate-1.9
___ 04:59PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:59PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 04:59PM URINE RBC-2 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0

MICRO
=====
___ 6:48 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

___ CDIFF - NEGATIVE

 
 
___ 12:24 am STOOL     CONSISTENCY: NOT APPLICABLE
      PRESENCE OF BLOOD.      Source: Stool. 

                            **FINAL REPORT ___

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      . 
      ___ CRYSTALS PRESENT. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

 
___ 11:48 am STOOL     CONSISTENCY: SOFT      Source: 
Stool. 

   OVA + PARASITES (Pending): 

IMAGING
=======
___ CT A/P W/ CONTRAST
1. Fluid within the small bowel and colon can be seen in the 
setting of  
gastroenteritis/diarrheal illness, nonspecific.  No evidence for 
bowel 
obstruction. 
2. Mildly dilated fluid-filled appendix is likely secondary to 
gastroenteritis/diarrheal illness.  No inflammation in the right 
lower 
quadrant to suggest primary appendicitis. 

DISCHARGE LABS
==============
___ 07:40AM BLOOD WBC-17.3* RBC-4.73 Hgb-13.8 Hct-41.1 
MCV-87 MCH-29.2 MCHC-33.6 RDW-13.2 RDWSD-41.0 Plt ___
___ 07:40AM BLOOD Neuts-45.9 Lymphs-18.3* Monos-4.5* 
Eos-29.2* Baso-0.4 Im ___ AbsNeut-7.92* AbsLymp-3.16 
AbsMono-0.78 AbsEos-5.05* AbsBaso-0.07
___ 07:40AM BLOOD Glucose-84 UreaN-9 Creat-1.1 Na-140 K-3.5 
Cl-105 HCO3-24 AnGap-15
___ 07:40AM BLOOD Calcium-8.7 Phos-4.1 Mg-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ man with a PMH notable for 
cholecystectomy in ___, who presented with abdominal pain and 1 
week of diarrhea that then became bloody, found to have 
eosinophilia.

# Abdominal Pain, Diarrhea, BRBPR
# Leukocytosis with Eosinophilia
# Metabolic Acidosis
Patient presented with one week of worsening watery diarrhea. On 
the night of admission developed BRBPR. In the span of one day 
(seen in ED two consecutive days), developed significant 
eosinophilia to 16.2% concerning for possible parasitic 
infection. Lactate normal. Remained afebrile. No significant 
risk factors for GI infectious etiologies other than two dogs at 
home that he feeds raw meat. Non-infectious causes for diarrhea 
include inflammatory bowel disease, but unlikely given history 
and acuity. Hgb did drop in the setting of BRBPR, but the drop 
most likely reflects hemodilation w/ IVFs after 
hemoconcentration from volume loss. Hgb stabilized in the ___. 
Stool studies were negative at time of d/c, but some were still 
pending, please f/u. Loperamide was started on hospital day 2. 
Patient w/ minimal nausea and abdominal pain throughout 
admission, tolerated solids and liquids well. Given the 
persistent eosinophilia, GI was consulted re: the need to do a 
colonoscopy, specifically to r/o eosinophilic enteritis. They 
did not find any indication to perform an inpatient scope, but 
will see him as an outpatient and may perform a colonoscopy at 
that time if still appropriate.

TRANSITIONAL ISSUES
===================
[ ] f/u final stool studies, including strongyloides IgG
[ ] f/u with PCP in next month for repeat CBC to ensure 
eosinophilia resolved
[ ] patient should f/u with GI in the next ___ weeks to 
determine if need colonoscopy to r/o eosinophilic enteritis

# CODE: Full code (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LOPERamide 2 mg PO QID:PRN diarrhea 
RX *loperamide 2 mg 1 tablet by mouth four times a day Disp #*40 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Gastroenteritis
Acute Kidney Injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted for having severe diarrhea 
that had recently turned bloody.  We tested your stool for 
infection, all those tests were negative at the time you were 
discharged. You will be notified if any of them turn out to be 
positive.  We gave you fluids through your IV, and then gave you 
anti-diarrhea medications to control your symptoms. We had the 
gastroenterology (GI) doctors ___, and they did not think 
that they needed to scope you urgently while you were in the 
hospital. Instead, they will see you as an outpatient, and will 
consider doing a colonoscopy at that time.

We wish you the best of health,
Your ___ Care Team
 
Followup Instructions:
___